US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (33.6 mg, 0.098 mmol), 4-bromo-2-methyl-1H-imidazole-5-carboxylic acid (20 mg, 0.098 mmol) and HATU (37.1 mg, 0.098 mmol) in DMF (5 ml) was added diisopropylethyl amine (0.034 ml, 0.195 mmol) and the mixture was stirred for 20 minutes at rt. The mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-bromo-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-methyl-1H-imidazole-5-carboxamide trifluoroacetate (15.0 mg, 0.023 mmol, 24% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.23 (t, 1H), 8.11 (s, 1H), 7.79 (s, 1H), 7.74 (s, 1H), 7.50 (d, 1H), 7.36 (t, 1H), 4.49 (d, 2H), 2.26 (s, 3H). LC-MS (ES+) m/z 531.10, [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 0.098 mmol, 33.6 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H9ClF4N2O
reactant | 4-bromo-2-methyl-1H-imidazole-5-carboxylic acid | 0.098 mmol, 20 mg | BrC=1N=C(NC1C(=O)O)C | C5H5BrN2O2
reactant | HATU | 0.098 mmol, 37.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.195 mmol, 0.034 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-bromo-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-methyl-1H-imidazole-5-carboxamide trifluoroacetate | 0.023 mmol, 15.0 mg, 24% yield | FC(C(=O)O)(F)F.BrC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)(F)F)C#N)F)C | InChI=1S/C20H12BrClF4N4O2.C2HF3O2/c1-9-29-16(18(21)30-9)19(31)28-8-11-2-3-14(22)17(15(11)23)32-13-5-10(7-27)4-12(6-13)20(24,25)26;3-2(4,5)1(6)7/h2-6H,8H2,1H3,(H,28,31)(H,29,30);(H,6,7)
